US04260756
3-Methyl-6-(2-furyl)-1,2,4-triazolo[4,3-b]pyridazine
As for Example 5, 4,5-dihydro-6-(2-furyl)-3(2H)-pyridazinone is converted to 3-chloro-6-(2-furyl)pyridazine. A 1.5 g. sample of the preceding compound, 1.2 g. of acethydrazide in 50 ml. of n-butyl alcohol is refluxed for 48 hours. The solvent is removed under reduced pressure and the residue is partitioned between dichloromethane and dilute sodium hydroxide. The dichloromethane layer is washed with water, dried over magnesium sulfate, filtered and concentrated. The residue is purified by conventional means to give the product of the Example.

reactant | 4,5-dihydro-6-(2-furyl)-3(2H)-pyridazinone | O1C(=CC=C1)C=1CCC(NN1)=O | C8H8N2O2
reactant | 3-chloro-6-(2-furyl)pyridazine | ClC=1N=NC(=CC1)C=1OC=CC1 | C8H5ClN2O
reactant | acethydrazide | C(C)(=O)NN | C2H6N2O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 3-Methyl-6-(2-furyl)-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C=2OC=CC2 | C10H8N4O
